US06576762B2
c) N-(3,5-Bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide
To a solution of 10.0 g (38.4 mmol) 6-chloro-N-methyl-4-o-tolyl-nicotinamide in 190 ml tetrahydrofuran 46 ml of a 1 M solution (46 mmol) of potassium hexamethyldisilazide in tetrahydrofuran were added at 0° C. After 30 min, 8.5 ml (46 mmol) 3,5-bis(trifluoromethyl)benzyl bromide were added dropwise to the resulting suspension. After completed addition the ice-water cooling bath was removed and the reaction mixture was allowed to warm to room temperature. After 2 h the reaction was quenched with water. The mixture was adjusted to pH 3 with 1 M aqueous hydrochloric acid solution and stirred for 10 min. Basification with 1 M aqueous sodium hydroxide solution to pH 8 was followed by concentration to remove tetrahydrofuran. The aqueous residue was extracted with four portions of dichloromethane. The combined organic extracts were dried with sodium sulfate and concentrated to give 21.4 g of crude product. Column chromatography afforded 18.4 g (98.5%) of the title compound as a white solid.

reactant | 6-chloro-N-methyl-4-o-tolyl-nicotinamide | 38.4 mmol, 10.0 g | ClC1=NC=C(C(=O)NC)C(=C1)C1=C(C=CC=C1)C | C14H13ClN2O
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 46 mmol, 8.5 ml | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | tetrahydrofuran | 190 ml | O1CCCC1 | C4H8O
product | N-(3,5-Bis-trifluoromethyl-benzyl)-6-chloro-N-methyl-4-o-tolyl-nicotinamide | 18.4 g, 98.5% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)Cl)=O)C)C=C(C1)C(F)(F)F)(F)F | C23H17ClF6N2O
